US08975252B2
10% Palladium-Carbon (30 mg) was added to a solution of tert-butyl(2R)-2-{[{[3-cyclohex-1-ene-1-yl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (300 mg) in ethanol (5 ml) and the mixture was stirred under normal pressure of hydrogen atmosphere at room temperature for 5 hours. Insolble materials were filtered through Celite and the filtrate was concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=1/2) to give tert-butyl(2R)-2-{[{[3-cyclohexyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (105 mg) as a colorless oil.

reactant | tert-butyl(2R)-2-{[{[3-cyclohex-1-ene-1-yl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 300 mg | C1(=CCCCC1)C1=NN(C2=CC(=CC=C12)CN(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1)CCCOC | C31H44N4O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Palladium-Carbon | 30 mg | [C].[Pd]
product | tert-butyl(2R)-2-{[{[3-cyclohexyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 105 mg | C1(CCCCC1)C1=NN(C2=CC(=CC=C12)CN(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1)CCCOC | C31H46N4O5
